US05350682
Synthesis of Mal-Phe-Ala-Ala-Ala-OH
0.2 ml of aqueous solution containing 2 mM Mal-Phe-Ala OEtCl, 50 mM H-Ala-Ala-OH, 25 mM NaOH and 0.15 mg/ml papain are deep-frozen. Subsequently the reaction mixture is kept at -25° C. until the Mal-Phe-Ala-OEtCl is consumed. Following thawing, the yield is determined analytically by RP-HPLC and amounts to 79% of theory.

reactant | Phe-Ala | C[C@@H](C(=O)O)NC(=O)[C@H](CC=1C=CC=CC1)N | C12H16N2O3
reactant | H-Ala-Ala-OH | 50 mM | N[C@@H](C)C(=O)N[C@@H](C)C(=O)O | C6H12N2O3
reactant | NaOH | 25 mM | [OH-].[Na+]
product | Phe-Ala-Ala-Ala-OH | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)O | C18H26N4O5
